US05474923
Nocardia autotrophica N-102 in the same BG medium (100 ml/500 ml-Erlenmeyer flask) as used in Example 1 was cultured at 28° C. under the aerobic conditions for 48 hours. To the culture medium were added 10 ml of a 5% aqueous β-cyclodextrin solution (0.01 M phosphate buffer, pH 7.0), a solution of 1% 1-hydroxyvitamin D3 in 1 ml of ethanol (in the amount of 140 mol of β-cyclodextrin relative to 1 mol of 1α-hydroxyvitamin D3) and a solution of 20% Tween 80 in 1 ml of ethanol. After cultivation for a further 2 hours, methylene chloride was added to the flask, and the determination as described in Example 1 was carried out. The peak fraction having a retention time of 3.8 minutes was collected, concentrated to dryness at 40° C. or below under reduced pressure, and applied to HPLC on Zorbax ODS (made by Du Pont Co.) with water-methanol (1:9) as a mobile phase at a flow rate of 1.0 ml/min. After elution, the peak reaction having a retention time of 5.6 minutes was collected, and concentrated to dryness under pressure at 40° C. or below with a nitrogen gas replacement to give 645 μg (64.5% of conversion ratio from the material) of 1α,25-dihydroxyvitamin D3. In case of the same procedure as described above but without β-cyclodextrin, the yield was 350 μg (35% of the conversion ratio from the material).

reactant | N-102 | CCN(CC)C1=CC2=C(C=C1)C3(C4=CC=CC=C4C(=O)O3)C5=CC(=C(C=C5O2)C)NC6=CC=CC=C6 | C31H28N2O3
reactant | β-cyclodextrin | 0.01 M, pH 7.0 | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | 1-hydroxyvitamin D3 | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O2
reactant | β-cyclodextrin | 140 mol | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | 1α-hydroxyvitamin D3 | 1 mol | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1α,25-dihydroxyvitamin D3 | C[C@H](CCCC(C)(C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](C[C@@H](C3=C)O)O)C | C27H44O3
